US08039463B2
HOBt (43 mg, 0.32 mmol) and DIEA (150 mg, 011 mmol) were added to a stirred solution of 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid (100 mg, 0.29 mmol) in DMF (4 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (111 mg, 0.58 mmol) followed by 6-benzyloxy-pyridin-3-ylamine (81 mg, 0.4 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water and the product extracted with ethyl acetate. The organics were washed with brine solution, dried over Na2SO4 and concentrated to afford a residue which was purified by column chromatography using silica gel 60-120 mesh (80% ethyl acetate in hexane) to afford 60 mg (39%) of N-(5-benzyloxy-pyridin-2-yl)-3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide. LCMS: 527.19 (M+1)+, 98.6%, 1H NMR: (DMSO-d6): δ 10.2 (td, 1H), 8.4 (dd, 1H), 8 (dt, 1H), 7.8 (d, 1H), 7.7 (t, 1H), 7.6 (t, 1H), 7.5 (d, 1H), 7.4 (m, 5H), 6.9 (m, 1H), 5.4 (d, 2H), 3.8 (m, 6H), 3.5 (m, 2H), 3.2 (m, 2H).

reactant | HOBt | 0.32 mmol, 43 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 150 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid | 0.29 mmol, 100 mg | O=C(CC(=O)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C15H15F3N2O4
reactant | EDCI.HCl | 0.58 mmol, 111 mg | CCN=C=NCCCN(C)C.Cl
reactant | 6-benzyloxy-pyridin-3-ylamine | 0.4 mmol, 81 mg | C(C1=CC=CC=C1)OC1=CC=C(C=N1)N | C12H12N2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(5-benzyloxy-pyridin-2-yl)-3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide | 60 mg, 39% | C(C1=CC=CC=C1)OC=1C=CC(=NC1)NC(CC(N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)=O | C27H25F3N4O4
